US06169197A
After 150 minutes of starting of the reaction, the reflux ratio was set to 0.2 and unreacted phenol and dibutyl carbonate were mainly distilled out in a reflux ratio of 0.2 by lowering gradually the reaction pressure from atmospheric pressure to 450 mmHg. After 40 minutes, unreacted phenol and dibutyl carbonate were almost distilled out. At this time, the bottom section temperature was 205° C. Then, dibutyl carbonate due to disproportionation was mainly distilled out by further lowering gradually the reaction pressure to 100 mmHg. After 2 hours of setting the reflux ratio to 0.2, the reaction was completed. At this time, the reaction liquid was analyzed. At this time, the bottom section temperature was 207° C. The distilled-out liquid contained 668 g of dibutyl carbonate, 774 g of phenol and 18 g of butanol. The bottom liquid was further distilled in order to remove the catalyst, whereby 133 g of diphenyl carbonate was obtained as the distillate.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | dibutyl carbonate | C(OCCCC)(OCCCC)=O | C9H18O3
reactant | dibutyl carbonate | 668 g | C(OCCCC)(OCCCC)=O | C9H18O3
reactant | phenol | 774 g | C1(=CC=CC=C1)O | C6H6O
reactant | butanol | 18 g | C(CCC)O | C4H10O
product | diphenyl carbonate | 133 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
